US05192357
Benzo[b]thiophen-2(3H)-one (6 g) and sodium hydroxide (3.2 g) were refluxed in water (40 ml) for one hour. 4-Chlorobenzyl chloride (6.44 g) was added and the mixture refluxed for a further 11/2 hours and allowed to cool overnight. Water (25 ml) was added, followed by acetic acid (100 ml). The solid was collected, washed with water and dried to give [2-(4-chlorobenzylthio)phenyl]-acetic acid, m.p. 149°-51°. A solution of this product (10.4 g) in methanol (250 ml) containing concentrated sulphuric acid (0.5 ml) was heated under reflux overnight and excess methanol evaporated. Ether and water were added and the organic phase was washed with aqueous sodium hydroxide, dried and evaporated. The product which solidified was re-crystallised from hexane to give the methyl ester of the starting acid, m.p. 52°-4°. This was treated with methyl formate and sodium hydride in a similar manner to the procedure described in Example 1 to give methyl (E)-3-methoxy- 2-[2-(4-chlorobenzylthio)phenyl]-prop-2-enoate, m.p. 81°-4°, (Compound 3) and the corresponding Z-isomer, m.p. 127°-8°. (Compound 4), which were separated by silica gel column chromatography.

reactant | Benzo[b]thiophen-2(3H)-one | 6 g | S1C2=C(CC1=O)C=CC=C2 | C8H6OS
reactant | sodium hydroxide | 3.2 g | [OH-].[Na+]
reactant | 4-Chlorobenzyl chloride | 6.44 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | water | 40 ml | O | H2O
solvent | Water | 25 ml | O | H2O
product | [2-(4-chlorobenzylthio)phenyl]-acetic acid | ClC1=CC=C(CSC2=C(C=CC=C2)CC(=O)O)C=C1 | C15H13ClO2S
